US07323455B2
7-(3,5-Difluorophenyl)-5,5-dimethyl-1,5-dihydro-4,1-benzoxazepin-2(3H)-thione
Prepared from 7-(3,5-difluorophenyl)-5,5-dimethyl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one and Lawesson's Reagent using the procedure of example 10. 1H-NMR (DMSO-d6) δ 12.01 (s, 1H), 7.70-7.63 (m, 2H), 7.59-7.48 (m, 2H), 7.41 (d, J=8.82 Hz, 1H), 7.28-7.18 (m, 1H), 4.51 (s, 2H), 1.62 (s, 6H); MS (FI) m/z 318 [M−H]−.

reactant | 7-(3,5-difluorophenyl)-5,5-dimethyl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one | FC=1C=C(C=C(C1)F)C=1C=CC2=C(C(OCC(N2)=O)(C)C)C1 | C17H15F2NO2
reactant | Lawesson's Reagent | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
product | 7-(3,5-Difluorophenyl)-5,5-dimethyl-1,5-dihydro-4,1-benzoxazepin-2(3H)-thione | FC=1C=C(C=C(C1)F)C=1C=CC2=C(C(OCC(N2)=S)(C)C)C1 | C17H15F2NOS
